US07381725B2
3-Phenyl-5-(pyridin-4-yl)pridazine
3-Phenyl-5-(tri-n-butylstannyl)pyridazine (110 mg, 0.247 mmol), 4-bromopyridine hydrochloride (72 mg, 0.370 mmol) and Pd(PPh3)4 (10 mg) in THF (2 ml) were combined and heated to 150° C. for 60 min in a Smith Synthesiser microwave reactor (Personal Chemistry, Uppsala, Sweden). The reaction was diluted with CH2Cl2 (6 ml) and NH4Cl (2 ml) then poured into PTFE (5 μM) fritted syringe barrels. The organic phase was collected and concentrated while loading onto silica. The compound was purified by dry flash column chromatography to give the title compound as a white solid (40 mg). δH (400 MHz, d6 DMSO) 7.36-7.63 (3H, m), 8.10 (2H, dd, J 1.8 and 4.5), 8.32 (2H, m), 8.62 (1H, d, J 2.0), 8.80-8.82 (2H, dd, J 1.8 and 4.5), 9.71 (2H, d, J 2.0); m/z (ES+) 234 (MH+).

reactant | 3-Phenyl-5-(tri-n-butylstannyl)pyridazine | 0.247 mmol, 110 mg | C1(=CC=CC=C1)C=1N=NC=C(C1)[Sn](CCCC)(CCCC)CCCC
reactant | 4-bromopyridine hydrochloride | 0.370 mmol, 72 mg | Cl.BrC1=CC=NC=C1
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
solvent | NH4Cl | 2 ml | [NH4+].[Cl-]
catalyst | Pd(PPh3)4 | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Phenyl-5-(pyridin-4-yl)pridazine | 40 mg | C1(=CC=CC=C1)C=1N=NC=C(C1)C1=CC=NC=C1 | C15H11N3
